US04263319
A stirred solution of 53.2 ml of formic acid and 10.5 ml of 30% hydrogen peroxide was heated to 35° C., and 14.5 g (0.075 mole) of 7-phenyl-1H-indene was added dropwise causing the reaction mixture temperature to rise to 41° C. Upon complete addition the reaction mixture was allowed to cool to ambient temperature and was stirred for 16 hours. The reaction mixture was concentrated under reduced pressure to give a residual semi-solid which was subjected to steam distillation in the presence of aqueous dilute sulfuric acid. The steam distillates were filtered to give 1.84 of 4-phenyl-2-indanone; m.p. 133°-136° C. The nmr and the ir spectra were consistent with the proposed structure.

reactant | hydrogen peroxide | 10.5 ml | OO | H2O2
reactant | 7-phenyl-1H-indene | 0.075 mole, 14.5 g | C1(=CC=CC=C1)C=1C=CC=C2C=CCC12 | C15H12
solvent | formic acid | 53.2 ml | C(=O)O | CH2O2
product | 4-phenyl-2-indanone | C1(=CC=CC=C1)C1=C2CC(CC2=CC=C1)=O | C15H12O
